Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest Pain, palpitations
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with HLD, migraines, localized scleroderma (morphea), who
presented to HCA with ___ substernal and mid upper back 
since
___ found to have unequal upper extremity blood pressures so
was sent to E.D. for further workup. 

Patient describes a sudden mid-sternum chest pain that radiates
to her back. Describes it as a chest tightness associated SOB.
Worsened with positional changes and with exertion. Also 
endorses
pleurisy. 

Denies any focal weakness or sensory changes, headache or vision
changes, recent period of immobilization, hormonal therapy,
history of DVT or PE, lower leg swelling, recent surgeries or
trauma. Patient also notes that the pain in her chest is worse
with movement and with physical pressing of her midsternum. 
Heart
score of 4 given that patient has chest pressure, many risk
factors and family hx of heart disease.

- In the ED, initial vitals were: Blood pressures equal around
140/80 in each arm. 
- Exam was notable for: B/l radial pulses intact. Normal neuro
exam.
- Labs were notable for: Negative trops x2. 
- Studies were notable for: NS tachy 102 NA NI no STE/STD/TWI
CTA Chest, Abd, pelvis without No aortic dissection or acute
findings to account for reported chest pain. Small bilateral
indeterminate adrenal nodules.
- The patient was placed in observation for stress test at which
point, she went into rapid aflutter (on rhythm strip) and
received 20mg IV dilt and 30mg PO. She was also given 1L NS.
CHADS2VASC 2. Patient also received home medications including
aspirin 81mg and atorvastatin 10mg.  
- Discussed possible stress test with Dr. ___ 

On arrival to the floor, patient states that pain has improved
from ___ to ___. She states that she's had intermittent
palpitations for about the last month. The chest pain is new
since ___. She reports the chest pain to be at around the
xiphoid and lower sternum radiating to her back, and it is worse
with palpation. Drinking water also makes the pain worse. She 
has
no recent trauma or heavy exercise. The pain is also worse while
lying in the lateral decubitus positions. The pain gets worse
when she's having the aflutter/afib exacerbations. 

She also states that she's been having a difficulty breathing 
for
about the last month that is worse with exertion and lying flat
in bed. She can lie flat and doesn't use pillows to sleep, but
does feel more SOB. She also endorses paroxysmal nocturnal
dyspnea. She gets intermittent lower extremity swelling for 
about
the last year. 

 
Past Medical History:
High Cholesterol
HTN (last few months, not on medication) 
Localized scleroderma (morphea)  
 
Social History:
___
Family History:
Mother died of MI and stroke at age ___. Father
died of MI at age ___. Father was a smoker. Brother (younger)
recently diagnosed with CAD (born ___ heart disease diagnosed
age ___ with MI). He also has hyperlipidemia, hypertension. Both
paternal grandfather and grandmother died of MIs. Her four
children are healthy. Her grandmother had a stroke. There is
diabetes in a paternal uncle. There is prostate cancer in her
maternal grandfather.
 
Physical Exam:
VITALS: 24 HR Data (last updated ___ @ 1115)
    Temp: 97.7 (Tm 99.5), BP: 115/77 (110-130/77-87), HR: 93
(75-93), RR: 18 (___), O2 sat: 95% (92-99), O2 delivery: RA,
Wt: 175.71 lb/79.7 kg  
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No JVD.
CARDIAC: Irregularly irregular rhythm, normal rate. Audible S1
and S2. No murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants including epigastric area. No
organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation.

 
Pertinent Results:
ADMISSION LABS:

___ 10:20AM   cTropnT-<0.01
___ 01:34PM   cTropnT-<0.01
___ 10:20AM   WBC-10.4* RBC-4.62 HGB-13.1 HCT-40.8 MCV-88 
MCH-28.4 MCHC-32.1 RDW-13.2 RDWSD-42.5

IMPORTANT STUDIES:
-------------------
TTE:
The left atrial volume index is normal. There is normal left 
ventricular wall thickness with a normal cavity size.
There is normal regional and global left ventricular systolic 
function. Quantitative 3D volumetric left ventricular ejection 
fraction is 66 % (normal 54-73%). There is no resting left 
ventricular outflow tract
gradient. Normal right ventricular cavity size with normal free 
wall motion. The aortic sinus diameter is normal
for gender with normal ascending aorta diameter for gender. The 
aortic arch diameter is normal with a normal
descending aorta diameter. There is no evidence for an aortic 
arch coarctation. The aortic valve leaflets (?#)
appear structurally normal. There is no aortic valve stenosis. 
There is no aortic regurgitation. The mitral valve
leaflets are mildly thickened with no mitral valve prolapse. 
There is trivial mitral regurgitation. The pulmonic
valve leaflets are normal. The tricuspid valve leaflets appear 
structurally normal. There is physiologic tricuspid
regurgitation. There is no pericardial effusion.
IMPRESSION: Normal left ventricular wall thickness and 
biventricular cavity sizes and regional/
global systolic function. Normal left atrial volume.

STRESS TEST:
INTERPRETATION: ___ yo woman with HL, HTN and family history for 
CAD 
was referred to evaluate an atypical chest discomfort and 
shortness of 
breath after presenting in PAF. The patient completed 10.5 
minutes of a 
modified ___ protocol representing an average exercise 
tolerance; ~ 
___ METS. The exercise test was stopped at the patient's request 

secondary to fatigue. No chest, back, neck or arm discomforts 
were 
reported by the patient during the procedure. No significant ST 
segment 
changes were noted. The rhythm was sinus with rare isolated VPB. 
The 
heart rate and blood pressure response to exercise was 
appropriate. 
  
IMPRESSION: Average exercise tolerance. No anginal symptoms or 
ischemic 
ST segment changes. Appropriate hemodynamic response to 
exercise. 

PERFUSION IMPRESSION: 
  
1. Normal myocardial perfusion. 
  
2. Normal left ventricular cavity size and systolic function.   

 
Brief Hospital Course:
___ year old female with HLD, HTN, FH early CAD presented with a 
month of palpitation and new atypical chest pain. She was found 
to have new onset paroxysmal atrial fibrillation. She was 
discharged on rivaroxaban for stroke prophylaxis. For atypical 
chest pain got exercise nuclear stress test, which showed normal 
perfusion.

# Paroxysmal AF: Unclear etiology given normal TSH and TTE. 
Could be related to relatively new dx of HTN. ___ also warrant 
evaluation for OSA given snoring reported by husband. Started on 
___ and rivaroxiban for stroke prevention given 
CHADS2VASC of 2. Aspirin discontinued given for primary 
prevention and will be on full dose AC lifelong. Will follow up 
with Dr. ___. Although AF lasted for hours, spent last 24 
hours in sinus rhythm.

# Chest pain: Atypical in nature, pleuritic and not really 
exacerbated by exertion, but risk factors with HLD, HTN, FH of 
early CAD. EK w/o evidence of pericardiis or ischemia. Exercise 
nuclear perfusion stress test done and was unremarkable. Advised 
trial of NSAIDs for likely MSK pain. 

# HLD: cholesterol checked and calculated LDL 161 despite 10 mg 
atorvastatin. Discharged on atorvastatin 40 mg, should have 
cholesterol rechecked in 6 months, goal < 100. 

# HTN: Started on Metoprolol as above. Consider additional tx. 

TRANSITIONAL ISSUES:
- New meds: Rivaroxiban, metoprolol succinate 50 mg daily.
- Changed meds: atorvastatin 10 mg -> 40 mg
- Discontinued meds: aspirin 81 mg. 

[ ] should have cholesterol rechecked in 6 months, goal LDL < 
100. 
[ ] Consider additional tx for HTN
[ ] ___ also warrant evaluation for OSA given snoring reported 
by husband.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 10 mg PO QPM 
2. Aspirin 81 mg PO DAILY 
3. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Metoprolol Succinate XL 50 mg PO DAILY  
2.  Rivaroxaban 20 mg PO DINNER  
3.  Atorvastatin 40 mg PO QPM  
4.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# New Atrial Fibrillation
# Chest pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  
Dear ___,  

It was a pleasure caring for you at ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
- You were in the hospital for fluttering in your heart and new 
onset chest pain.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- We found that you had a common heart arrhythmia called atrial 
fibrillation.
- You were started on a blood thinner to decrease your risk of 
stroke. 
- You had a stress test to rule out blockages in the blood 
vessels supplying your heart, this showed likely normal blood 
flow to the heart. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Please take your medications and go to your follow up 
appointments as described in this discharge summary.  
- If you experience any of the danger signs listed below, please 
call your primary care doctor or go to the emergency department 
immediately.  

We wish you the best!  

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___